US06455550B1
Preparation of 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-[2-[[(4-methoxyphenyl)carbonyl]amino]ethyl]cyclopentyl]carbonyl]-L-phenylalanine Methyl Ester
To a solution of 4-[[(2,6-dichlorophenyl)carbonyl)amino]-N-[[1-(2-aminoethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (0.2 mmol, 101 mg) and 4-methoxybenzoyl chloride (0.25 mmol, 52.1 mg) in dichloromethane (1 mL) was added DIPEA (0.3 mmol, 38.7 mg) at room temperature. The reaction mixture was stirred for 15 h at room temperature and then diluted with 20 mL of dichloromethane. The dichloromethane layer was washed successively with water (20 mL) and brine solution (20 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent afforded a crude product which was purified by revesrsed phase HPLC to obtain 0.1 g (78%) of a yellow syrup. HR MS (C33H35Cl2N3O6): Obs. mass, 662.1778. Calcd. mass, 662.1801 (M+Na).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl)amino]-N-[[1-(2-aminoethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.2 mmol, 101 mg | COC([C@@H](NC(=O)C1(CCCC1)CCN)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C25H29Cl2N3O4
reactant | 4-methoxybenzoyl chloride | 0.25 mmol, 52.1 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | DIPEA | 0.3 mmol, 38.7 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-[2-[[(4-methoxyphenyl)carbonyl]amino]ethyl]cyclopentyl]carbonyl]-L-phenylalanine Methyl Ester | 0.1 g, 78% | COC([C@@H](NC(=O)C1(CCCC1)CCNC(=O)C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C33H35Cl2N3O6
